US05399578
(S)-N-Butyloxycarbonyl-N-(1-Carboxy-2-methyl-prop-1-yl)-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine
N-Carbobutoxy-N-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-(L)-valine benzyl ester starting from 1.05 g of N-carbobutoxy-N-[(2'-cyanobiphenyl-4-yl)methyl]-(L)-valine benzyl ester and 1.05 g of tributyltin azide and subsequent flash chromatography using the system N6. Amorphous product. TLC (system N6) Rf : 0.17.

reactant | N-Carbobutoxy-N-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-(L)-valine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=O)OCCCC)C(C)C)=O | C31H35N5O4
reactant | N-carbobutoxy-N-[(2'-cyanobiphenyl-4-yl)methyl]-(L)-valine benzyl ester | 1.05 g | C(C1=CC=CC=C1)OC([C@@H](N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(=O)OCCCC)C(C)C)=O | C31H34N2O4
reactant | tributyltin azide | 1.05 g | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
product | (S)-N-Butyloxycarbonyl-N-(1-Carboxy-2-methyl-prop-1-yl)-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine | C(CCC)OC(=O)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)[C@@H](C(C)C)C(=O)O | C24H29N5O4
